US08426448B2
Preparation 88: (R)-3-[1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-phenyl-1,5-dihydro-pyrrol-2-one
Add water (490 mL) and trifluoroacetic acid (126 mL, 1.67 mol) sequentially to a solution of 1-(4-trifluoromethoxy-phenyl)-3-(R)-1-phenyl-ethylamino)-5(R)-phenyl-1,5-dihydro-pyrrol-2-one (245 g, 558 mmol) in toluene (1.22 L). Stir at ambient temperature for 2 hours. Add water (1.0 L) and discard the aqueous layer. Wash the organic layer with 1N HCl (500 mL×2). To the organic layer add HOAc (10 mL, 174 mmol) and 1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine (170 g, 836 mmol). Heat to 40° C. for 18 hours. Add water (400 mL), separate and discard the aqueous layer. Wash the organic layer with water (500 mL) and concentrate the organic layer to a dark oil. Dissolve the residue in toluene (400 mL) and concentrate to a brown paste. Triturate the solid with 20% MTBE/hexanes (1.0 L). Filter the mixture and collect the title compound as white solid (190 g, 65%). 1H NMR (400 MHz, DMSO-d6) δ 8.01 (m, 1H), 7.83 (d, J=8 Hz, 1H), 7.69 (d, J=8 Hz, 1H), 7.64 (d, 12 Hz, 2H), 7.26 (d, J=8 Hz, 2H), 7.17 (m, 3H), 7.03 (d, J=8 Hz, 2H), 5.78 (s, 1H), 5.73 (s, 1H), 4.70 (s, 1H), 1.62 (s, 3H), 1.59 (s, 3H) LC-MS ESI m/z: 522 (M+H)+, Tr=6.53 min., method 1.

reactant | trifluoroacetic acid | 1.67 mol, 126 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5(R)-phenyl-1,5-dihydro-pyrrol-2-one | 558 mmol, 245 g | C1(=CC=CC=C1)[C@H]1C=CC(N1)=O | C10H9NO
reactant | HOAc | 174 mmol, 10 mL | CC(=O)O | C2H4O2
reactant | 1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine | 836 mmol, 170 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)N | C9H11F3N2
solvent | toluene | 1.22 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.0 L | O | H2O
solvent | water | 490 mL | O | H2O
product | (R)-3-[1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-phenyl-1,5-dihydro-pyrrol-2-one | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC=1C(N([C@H](C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C26H21F6N3O2
